US04436748
To a mixture of 22.4 g of 6,7-dichloro-5-hydroxy-2,3-dimethylbenzo[b]thiophene is added a mixture of 18.23 g of ethyl bromoacetate in 100 ml of 2-butanone, followed by 15 g of potassium carbonate and 7.5 ml of sieve-dried dimethylformamide. The reaction mixture is stirred at 95°-100° for 21/2 hrs, allowed to cool and filtered. To the filtrate is added 100 ml of water and the mixture is extracted with ethyl ether. The organic layers are separated, washed, dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give a solid. The solid is recrystallized from acetone-hexane to give 25.8 g of ethyl[ (6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetate, mp 102°-104°.

reactant | 6,7-dichloro-5-hydroxy-2,3-dimethylbenzo[b]thiophene | 22.4 g | ClC=1C(=CC2=C(SC(=C2C)C)C1Cl)O | C10H8Cl2OS
reactant | ethyl bromoacetate | 18.23 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | ethyl[ (6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetate | 25.8 g | C(C)OC(COC1=CC2=C(SC(=C2C)C)C(=C1Cl)Cl)=O | C14H14Cl2O3S
